US04939140
5-Bromomethylbenzothiazole
A mixture of 5-methylbenzothiazole (5.0 g), N-bromosuccinimide (6.0 g) and carbon tetrachloride (500 ml) was refluxed for 4 hours. Upon cooling, the mixture was evaporated to dryness and the residue chromatographed over silica gel. On elution with a mixture of methylene chloride and hexane (9:1), the title product was obtained as a white solid [0.56 g; NMR(CDCl3,60 MHz): 4.6 (s, 2H), 7.4 (dd, J=7 Hz, 2 Hz, 1H). 7.9 (d, J=7 Hz, 1H), 8.15 (d, J=2 Hz, 1H), 9.0 (s, 1H).

reactant | 5-methylbenzothiazole | 5.0 g | CC=1C=CC2=C(N=CS2)C1 | C8H7NS
reactant | N-bromosuccinimide | 6.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 500 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-Bromomethylbenzothiazole | BrCC=1C=CC2=C(N=CS2)C1 | C8H6BrNS
